US04610984
4-(4-Methoxybenzoyl)-piperazin-1-yl-acetic acid morpholide hydrochloride
10.25 g of piperazin-1-yl-acetic acid morpholide are cooled to 0° C. in 20 ml of methylene chloride. 8.75 g of anisoyl chloride are added dropwise in the course of 15 minutes. After the mixture has been subsequently stirred for 4 hours, it is diluted with isopropanol, whereupon the colourless product precipitates. It is filtered off with suction and dried.

reactant | piperazin-1-yl-acetic acid morpholide | 10.25 g | N1(CCNCC1)CC(=O)N1CCOCC1 | C10H19N3O2
reactant | anisoyl chloride | 8.75 g | C(C1=CC=C(C=C1)OC)(=O)Cl | C8H7ClO2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | isopropanol | C(C)(C)O | C3H8O
product | 4-(4-Methoxybenzoyl)-piperazin-1-yl-acetic acid morpholide hydrochloride | Cl.COC1=CC=C(C(=O)N2CCN(CC2)CC(=O)N2CCOCC2)C=C1 | InChI=1S/C18H25N3O4.ClH/c1-24-16-4-2-15(3-5-16)18(23)21-8-6-19(7-9-21)14-17(22)20-10-12-25-13-11-20;/h2-5H,6-14H2,1H3;1H
